US09422240B2
To a solution of 4-phenylbenzaldehyde (1.20 g) in diethyl ether (13.2 mL), ethylmagnesium bromide (about 3.0 mol/L, solution in diethyl ether, 3.29 mL) was added at 0° C. After stirring the mixture at room temperature for 3 hours, the precipitate was recovered by filtration. After dissolving the recovered precipitate in a liquid mixture of ethyl acetate and a saturated aqueous solution of ammonium chloride, three extractions were conducted with ethyl acetate. The combined organic layers were washed with saturated brine. After passage through a phase separator, the washed organic layers were concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0-70:30) to give 1-(biphenyl-4-yl)propan-1-ol as a colorless solid (1.27 g).

reactant | 4-phenylbenzaldehyde | 1.20 g | C1(=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O
reactant | diethyl ether | 13.2 mL | C(C)OCC | C4H10O
solvent | ethylmagnesium bromide | about 3.0 mol/L, 3.29 mL | C(C)[Mg]Br
product | 1-(biphenyl-4-yl)propan-1-ol | 1.27 g | C1(=CC=C(C=C1)C(CC)O)C1=CC=CC=C1 | C15H16O
